US05238837
In 50 ml of methylene chloride, methyl 18-hydroxyoctadecanoate (4.5 g, 14.3 mmoles) was dissolved. To the obtained solution was added pyridine (4.53 g, 57.2 mmoles), and then was gradually added p-toluenesulfonyl chloride (5.46 g, 28.6 mmoles) with ice-cooling over a period of 1 hour. Thereafter, reaction was carried out for 16 hours in a refrigerator. The reaction mixture was washed with a 10% aqueous hydrochloric acid solution, water, saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution in this order, dried, and then concentrated under reduced pressure. The residue was isolated and purified by silica gel column chromatography (eluent: benzene) to give methyl 18-tosyloxyoctadecanoate (5.69 g, 85%) having the following properties.

reactant | methyl 18-hydroxyoctadecanoate | 14.3 mmoles, 4.5 g | OCCCCCCCCCCCCCCCCCC(=O)OC | C19H38O3
reactant | pyridine | 57.2 mmoles, 4.53 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 28.6 mmoles, 5.46 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 18-tosyloxyoctadecanoate | 5.69 g, 85% | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCCCCCCCCCC(=O)OC | C26H44O5S
